US04228100
A mixture of THPC (19.06 g, 0.1 mol), 1,3-dimethylurea (17.62 g, 0.2 mol), and toluene (150 ml) was heated to reflux in an apparatus fitted with a mechanical stirrer and a Dean-Stark trap for azeotropic removal of the water. The mixture was held at reflux unitl the evolution of water ceased (4 hr); this condensation, as might be expected, required a longer reflux period and more efficient stirring to displace the last of the water than that of Example 1. Half of the 7.2 ml (100.0%) of water was collected during the first 15 min. The product, which separated during the reaction as a mass of white solids, was broken up, triturated under acetonitrile to remove a resinous by-product (4.09 g), filtered, rinsed with acetonitrile and dried, giving 26.21 g (86.3%) of 3,9-dioxo-2,4,8,10-tetramethyl-2,4,8,10-tetraaza-6-phosphoniaspiro[5.5]undecane chloride (II, R=R'=CH3, X=Cl) as a white, crystalline solid. Two recrystallizations from 2-propanol (12 ml/g) gave pure product, mp 161°-162° C. and resolidifying, then mp 217° C. dec.

reactant | THPC | 0.1 mol, 19.06 g | C(O)[P+](CO)(CO)CO.[Cl-]
reactant | 1,3-dimethylurea | 0.2 mol, 17.62 g | CNC(=O)NC | C3H8N2O
reactant | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 3,9-dioxo-2,4,8,10-tetramethyl-2,4,8,10-tetraaza-6-phosphoniaspiro[5.5]undecane chloride | 26.21 g, 86.3% | [Cl-].O=C1N(C[P+]2(CN1C)CN(C(N(C2)C)=O)C)C | InChI=1S/C10H20N4O2P.ClH/c1-11-5-17(6-12(2)9(11)15)7-13(3)10(16)14(4)8-17;/h5-8H2,1-4H3;1H/q+1;/p-1
